US06770420B2
In general analogy to the reaction described under 3.2, 15.2 g (0.1 mol) of α-hydroxyimino-thiophene-3-acetonitrile and 15.2 g (0.15 mol) of triethylamine are dissolved in 150 ml of tetrahydrofuran and to this is added dropwise a solution of 12.6 g (0.11 mol) of methanesulfonyl chloride at 0-5° C. After the addition is complete, the mixture is stirred for 30 minutes at 0° C. and then overnight at room temperature. The reaction mixture is filtered, the filtrate is washed with dilute hydrochloric acid and with saturated sodium chloride solution and then dried over magnesium sulfate. The solvent is distilled off on a rotary evaporator, giving a solid residue which is then recrystallised from ethyl acetate/hexane (2:1). 11.2 g (49%) of α-(methylsulfonyloxyimino)thiophene3-acetonitrile are obtained in the form of a colourless powder having an m.p. of 116-124° C. The 1H-NMR spectrum shows it to be the pure cis-isomer (Example 5a).

reactant | α-hydroxyimino-thiophene-3-acetonitrile | 0.1 mol, 15.2 g | ON=C(C#N)C1=CSC=C1 | C6H4N2OS
reactant | triethylamine | 0.15 mol, 15.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.11 mol, 12.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | α-(methylsulfonyloxyimino)thiophene3-acetonitrile | 11.2 g, 49% | CS(=O)(=O)ON=C(C#N)C1=CSC=C1 | C7H6N2O3S2
